US05739140
A 1M solution of titanium tetrachloride in toluene (74.1 mL, 74.1 mmol) was added dropwise to a solution of 2-methyl-4-(1-hydroxy-4-phenyl-1-butyl) anisole (5.0 g, 18.5 mmol) in methylene chloride. The mixture was stirred at room temperature for 3h, then the reaction was quenched by pouring into excess aqueous saturated sodium bicarbonate. After stirring for 5 min the mixture was extracted with ether, and the organic phase was dried over magnesium sulfate, concentrated, and purified by chromatography over silica gel eluted with hexanes to afford 2.46 g of 2-methyl-4-(1-tetralinyl) anisole as a clear oil.

reactant | toluene | 74.1 mmol, 74.1 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-methyl-4-(1-hydroxy-4-phenyl-1-butyl) anisole | 18.5 mmol, 5.0 g | CC1=C(C=CC(=C1)C(CCCC1=CC=CC=C1)O)OC | C18H22O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 2-methyl-4-(1-tetralinyl) anisole | 2.46 g | CC1=C(C=CC(=C1)C1CCCC2=CC=CC=C12)OC | C18H20O
